US04183932
The starting material may be prepared as follows: A mixture of 3.0 g of 2,6-dichloro-3,4-dihydro-3-methyl-4-phenylquinazoline and 15 ml of 2,2-dimethoxyethylamine was heated at 100°-110° C. for 1 hour. The mixture was poured into ice-water and the resulting mixture was extracted with ether. The ether layer was washed with water, dried over anhydrous sodium sulfate, and concentrated to dryness. The residual oil was crystallized from isopropyl ether-hexane to give 2.0 g of 6-chloro-3,4-dihydro-2-(2,2-dimethoxyethylamino)-3-methyl-4-phenylquinazoline as colorless needles, m.p. 104.5°-105° C.

reactant | 2,6-dichloro-3,4-dihydro-3-methyl-4-phenylquinazoline | 3.0 g | ClC1=NC2=CC=C(C=C2C(N1C)C1=CC=CC=C1)Cl | C15H12Cl2N2
reactant | 2,2-dimethoxyethylamine | 15 ml | COC(CN)OC | C4H11NO2
product | 6-chloro-3,4-dihydro-2-(2,2-dimethoxyethylamino)-3-methyl-4-phenylquinazoline | 2.0 g | ClC=1C=C2C(N(C(=NC2=CC1)NCC(OC)OC)C)C1=CC=CC=C1 | C19H22ClN3O2
